US07579349B2
2-Chloro-6-methyl-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine
Solid sodium carbonate (1.2 g, 11.3 mmol) was added to a solution of 2,4-dichloro-6-methylpyrimidine (1.7 g, 10.3 mmol) and 5-amino-3-methyl-1H-pyrazole (1.0 g, 10.3 mmol) in dry ethanol (50 ml) and the mixture heated and stirred at 42° C. for 3 days. The mixture was allowed to cool, the insoluble material was removed by filtration and the filter pad washed with ethanol (10 ml). The volatiles were removed from the filtrate by evaporation, keeping the bath temperature below 40° C. The residue was immediately purified by chromatography on silica gel eluting with methanol/DCM (5:95 increasing in polarity to 20:80) to give the title compound (758 mg, 33%) as a white solid.

reactant | sodium carbonate | 11.3 mmol, 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4-dichloro-6-methylpyrimidine | 10.3 mmol, 1.7 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | 5-amino-3-methyl-1H-pyrazole | 10.3 mmol, 1.0 g | NC1=CC(=NN1)C | C4H7N3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Chloro-6-methyl-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine | 758 mg, 33% | ClC1=NC(=CC(=N1)NC1=NNC(=C1)C)C | C9H10ClN5
